US06380230B1
A) Benzyl 1-(2-cyanoethyl)-2-indolecarboxylate
1.6 ml of Triton B at 40% in water and 4 ml of acrylonitrile are mixed in 40 ml of dioxane, and 9.44 g of benzyl 2-indolecarboxylate are then added with stirring. The mixture is heated at 80° C. for 24 hours and is then poured into 500 ml of ice-cold water. The precipitate formed is filtered off, taken up in EtOAc and this solution is then dried over Na2SO4 and concentrated to give 10.1 g of the expected compound, which crystallizes: m.p.=98-100° C.

reactant | acrylonitrile | 4 ml | C(C=C)#N | C3H3N
reactant | benzyl 2-indolecarboxylate | 9.44 g | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
solvent | water | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | Benzyl 1-(2-cyanoethyl)-2-indolecarboxylate | 10.1 g | C(#N)CCN1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C19H16N2O2
